### PR TITLE
Various improvements to the formalization of Bicategories

### PR DESCRIPTION
**Pull request by maggesi**
- Initial development about biunivalence (univalence for bicategories).
- More examples of bicategories and displayed bicategories and more constructions (e.g., internal adjunction).
- Improved comments, readability, consistency of naming conventions, etc.

### CODE REVIEW

**Comment by benediktahrens** [comment]
lgtm

**Comment by DanGrayson** [comment]
I notice that `destruct` is used, in, for example, the proof of `Lemma isaprop_is_invertible_2cell`.  See https://github.com/UniMath/UniMath/issues/658 for a suggestion that we may relax that, but we haven't done it yet.

What do you think, @benediktahrens ?

File: UniMath/CategoryTheory/Bicategories/Bicat.v [hunk 1]
```diff
@@ -127,293 +130,515 @@ Definition hcomp' {C : prebicat_data} {a b c : C} {f1 f2 : C⟦a, b⟧} {g1 g2 :
...
+  intermediate_path (pr1 P).
+  { apply idpath. }
+  unfold P.
+  assert (foo : inv_invertible_2cell (x,, hx) = inv_invertible_2cell (y,, hy)).
+  { apply subtypeEquality. intro. apply isaprop_is_invertible_2cell.
+    apply H.
+  }
+  rewrite foo.
+  apply idpath.
+Qed.
```
Comment (DanGrayson) [inline UniMath/CategoryTheory/Bicategories/Bicat.v]: This proof looks simpler to me:
```
Lemma cell_id_if_inv_cell_id {C : bicat} {a b : C} {f g : C ⟦a, b⟧} (x y : f ==> g)
      (hx : is_invertible_2cell x) (hy : is_invertible_2cell y)
  : inv_cell (x,,hx) = inv_cell (y,,hy) → x = y.
Proof.
  intro H.
  change (pr1 (inv_invertible_2cell (inv_invertible_2cell (x,,hx)))
          =
          pr1 (inv_invertible_2cell (inv_invertible_2cell (y,,hy)))).
  apply maponpaths, maponpaths.
  apply subtypeEquality.
  { intro. apply isaprop_is_invertible_2cell. }
  apply H.
Qed.
```

**Comment by benediktahrens** [comment]
@DanGrayson : thanks for the feedback! I think that it would be good to replace `destruct` by `induction` before merging the PR. I don't have anything against `destruct`, I think, but I like using as few different tactics as possible.

File: UniMath/CategoryTheory/Bicategories/Bicat.v (hunk 1 above)
Comment (maggesi) [reply UniMath/CategoryTheory/Bicategories/Bicat.v]: Oh, thanks.  This proof is a more direct indeed.

**Comment by maggesi** [comment]
I think that this PR is ready for merge now (if there are no further observations).
